US04082751
Preparation 20-1: 2-Methoxybenzamidine hydrochloride
In a manner similar to that described for the preparation of 2-n-propoxybenzamidine hydrochloride in Preparation 7, 2-methoxybenzamindine hydrochloride, m.p. 150°-152° was prepared from 2-methoxybenzamide.

reactant | 2-n-propoxybenzamidine hydrochloride | Cl.C(CC)OC1=C(C(=N)N)C=CC=C1
reactant | hydrochloride | Cl | ClH
reactant | 2-methoxybenzamide | COC1=C(C(=O)N)C=CC=C1 | C8H9NO2
product | 2-Methoxybenzamidine hydrochloride | Cl.COC1=C(C(=N)N)C=CC=C1 | InChI=1S/C8H10N2O.ClH/c1-11-7-5-3-2-4-6(7)8(9)10;/h2-5H,1H3,(H3,9,10);1H
